US07214802B2
Example 82 benzamide was prepared from 3-tert-butyl-2-cyclopropyl-3H-imidazole-4-carbaldehyde and 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide in the same manner as Example 39. ESI MS m/z 620 [C32H41N7O4S+H]+.

reactant | 3-tert-butyl-2-cyclopropyl-3H-imidazole-4-carbaldehyde | C(C)(C)(C)N1C(=NC=C1C=O)C1CC1 | C11H16N2O
reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
